US07358376B2
b) 3-Amino-5-(3-chlorophenyl)-2-thiophenecarboxylic acid
Methyl 3-amino-5-(3-chlorophenyl)-2-thiophenecarboxylate (1.0 g), 2M sodium hydroxide (2 mL) and methanol (10 mL) were heated at 70° C. for 2 days. The methanol was evaporated off and the residue was acidified with 2M hydrochloric acid. Extraction into ethyl acetate followed by drying (MgSO4) and evaporation of the solvent gave the sub-title acid (0.8 g).

reactant | Methyl 3-amino-5-(3-chlorophenyl)-2-thiophenecarboxylate | 1.0 g | NC1=C(SC(=C1)C1=CC(=CC=C1)Cl)C(=O)OC | C12H10ClNO2S
reactant | sodium hydroxide | 2M, 2 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 3-Amino-5-(3-chlorophenyl)-2-thiophenecarboxylic acid | 0.8 g | NC1=C(SC(=C1)C1=CC(=CC=C1)Cl)C(=O)O | C11H8ClNO2S
